US08981101B2
Analogously to Example 5, 3-iodo-1-methyl-1H-pyrrolo[2,3-b]pyridine is reacted with 1-benzenesulfonyl-3-iodo-1H-pyrrolo[2,3-c]pyridine to give 1-benzenesulfonyl-3-(1-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-1H-pyrrolo-[2,3-c]pyridine.

reactant | 3-iodo-1-methyl-1H-pyrrolo[2,3-b]pyridine | IC1=CN(C2=NC=CC=C21)C | C8H7IN2
reactant | 1-benzenesulfonyl-3-iodo-1H-pyrrolo[2,3-c]pyridine | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C=2C1=CN=CC2)I | C13H9IN2O2S
product | 1-benzenesulfonyl-3-(1-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-1H-pyrrolo-[2,3-c]pyridine | C1(=CC=CC=C1)S(=O)(=O)N1C=C(C=2C1=CN=CC2)C2=CN(C1=NC=CC=C12)C | C21H16N4O2S
